US04681952
0.91 g (0.04 mol) of sodium is dissolved in 100 ml of ethanol and, at 20° C., 10.5 g (0.036 mol) of 1-bromo-1-(4-chlorophenyl)-2,2-dimethyl-3-butanone in 20 ml of ethanol are added. The reaction mixture is stirred at 20° C. for about 15 hours, diluted with water and neutralized. It is extracted with methylene chloride, dried with sodium sulphate and the solvent is distilled off from the filtrate under waterpump vacuum. The residue is purified by distillation under high vacuum. 4.8 g (65% of theory) of 2,2-dimethyl-3-(4-chlorophenyl)cyclobutanone of boiling point 98° to 107° C./0.05 mbar are obtained.

reactant | sodium | 0.04 mol, 0.91 g | [Na] | Na
reactant | 1-bromo-1-(4-chlorophenyl)-2,2-dimethyl-3-butanone | 0.036 mol, 10.5 g | BrC(C(C(C)=O)(C)C)C1=CC=C(C=C1)Cl | C12H14BrClO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,2-dimethyl-3-(4-chlorophenyl)cyclobutanone | 4.8 g, 65% | CC1(C(CC1C1=CC=C(C=C1)Cl)=O)C | C12H13ClO
